US08802664B2
To a solution of ethyl phenylacetate (3.28 g) in acetonitrile (60 mL) is added para-toluenesulfonylazide (4.53 g). The reaction mixture is cooled to 0° C. and 1,8-diazabicyclo[5.4.0]undec-7-ene (3.9 mL) is added dropwise. The reaction mixture is kept at 5° C. overnight. Solvent is removed to dryness and the residue is purified by chromatography (gradient petroleum ether/dichloromethane from 90/10 to 80/20) to give diazophenylacetic acid ethyl ester;

reactant | ethyl phenylacetate | 3.28 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | para-toluenesulfonylazide | 4.53 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.9 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | diazophenylacetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)=[N+]=[N-])=O | C10H10N2O2
